US20010036946A1
1-[N2-(3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl ]-4-(4-pyridinyl)-piperazine
To a mixture of 4 g (4.7 mmol) of 1-[N2-[N-(1,1-dimethylethoxycarbonyl)-3,5-dibromo-D-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine and 80 ml of methylene chloride were added 20 ml of trifluoroacetic acid and the reaction mixture was stirred overnight at room temperature. The reaction mixture was neutralised by the addition of saturated aqueous sodium hydrogen carbonate solution, the organic phase was dried over sodium sulphate and evaporated down in vacuo. 2.2 g (64% of theory) of an amorphous solid were obtained. IR (KBr): 1643, 1680 cm−1 (C═O) Rf: 0.5 (FM1) ESI-MS: (M+H)+=745/747/749 (Br2)

reactant | 1-[N2-[N-(1,1-dimethylethoxycarbonyl)-3,5-dibromo-D-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | 4.7 mmol, 4 g | CC(C)(OC(=O)N[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=CC=NC=C1)C | C37H46Br2N6O7
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | KBr | [K+].[Br-]
reactant | Br2 | BrBr | Br2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-[N2-(3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl ]-4-(4-pyridinyl)-piperazine | BrC=1C=C(C[C@@H](N)C(=O)N[C@@H](CCCCNC(=O)OCC2=CC=CC=C2)C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C(C1O)Br | C32H38Br2N6O5
